US07495103B2
Raney Ni (3 g) was added to 5-tert-butyl-6-nitro-1H-indole (14.7 g, 67 mmol) in methanol (100 mL). The mixture was stirred under hydrogen (1 atm) at 30° C. for 3 h. The catalyst was filtered off. The filtrate was dried over Na2SO4 and concentrated. The crude dark brown viscous oil was purified by column chromatography (10-20% EtOAc/petroleum ether) to give 5-tert-butyl-1H-indol-6-ylamine (B-24) as a gray solid (11 g, 87%). 1H NMR (300 MHz, DMSO-d6) δ 10.3 (br s, 1H), 7.2 (s, 1H), 6.9 (m, 1H), 6.6 (s, 1H), 6.1 (m, 1H), 4.4 (br s, 2H), 1.3 (s, 9H).

reactant | 5-tert-butyl-6-nitro-1H-indole | 67 mmol, 14.7 g | C(C)(C)(C)C=1C=C2C=CNC2=CC1[N+](=O)[O-] | C12H14N2O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Ni | 3 g | [Ni] | Ni
product | 5-tert-butyl-1H-indol-6-ylamine | 11 g, 87% | C(C)(C)(C)C=1C=C2C=CNC2=CC1N | C12H16N2
